US07576215B2
4-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-2-METHOXYPHENOL
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 4-hydroxy-3-methoxy-benzaldehyde. MS (ESI) m/z 515.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 4-hydroxy-3-methoxy-benzaldehyde | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
product | 4-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-2-METHOXYPHENOL | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC(=C(C=C1)O)OC)C(F)(F)F | C31H25F3N2O2
